US08563541B2
Step 3: 4-bromo-3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole
To a solution of 4-bromo-3-(difluoromethyl)-5-methyl-1H-pyrazole (1.40 g, 6.63 mmol) in chloroform (30.0 mL, 0.375 mol) was added p-toluenesulfonic acid monohydrate (0.13 g, 0.66 mol) at 0° C. Dihydropyran (0.91 mL, 0.010 mol) was added and stirred at 25° C. for 2 h. The reaction was extracted with ethyl acetate and the organic extracts were washed with NaHCO3, water, saturated NaCl, dried (MgSO4) and concentrated in vacuo. The compound was chromatographed on silica gel using 10% EtOAc/hexanes to give the desired product. 1H NMR (CDCl3): δ 6.51-6.78 (t, 1H), 5.31 (dd, 1H), 4.01 (m, 1H), 3.65 (m, 1H), 2.40 (m, 1H), 2.35 (s, 3H), 2.21 (m, 1H), 1.95 (m, 1H), 1.50-1.70 (m, 3H).

reactant | 4-bromo-3-(difluoromethyl)-5-methyl-1H-pyrazole | 6.63 mmol, 1.40 g | BrC=1C(=NNC1C)C(F)F | C5H5BrF2N2
reactant | chloroform | 0.375 mol, 30.0 mL | C(Cl)(Cl)Cl | CHCl3
reactant | p-toluenesulfonic acid monohydrate | 0.66 mol, 0.13 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Dihydropyran | 0.010 mol, 0.91 mL | O1CCCC=C1 | C5H8O
product | 4-bromo-3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | BrC=1C(=NN(C1C)C1OCCCC1)C(F)F | C10H13BrF2N2O
